US05866588
A solution of methyl-(E)-3-(6-[3-pyrrolidin-1-yl-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)acrylate (1.98 g, 5.47 mmol) in dry THF (100 ml) was cooled to -78° C. and treated under an inert atmosphere with a solution of DIBAL (1M in toluene, 16.4 ml, 16.4 mmol). After stirring for 3 hours at -78° C. more DIBAL was added (11 ml, 11 mmol) and the reaction allowed to warm to room temperature. Following a total reaction time of 24 hours the reaction was quenched with water (0.5 ml). The reaction mixture was partitioned between DCM and water. The aqueous layer was separated, acidified (20 ml, 1M HCl) and extracted with DCM. The organic extracts were combined, dried over sodium sulphate, filtered and concentrated under reduced pressure to yield 3-(6-[3-pyrrolidino-1-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-prop-2E-en-1-ol as an off white solid (1.69 g, 93%). 1H-NMR; δ (CDCl3), 7.40 (1 H, t, J=7.9 Hz), 7.19 (2H, d, J=7.8 Hz), 7.16 (1H, t, J=7.3 Hz), 7.08 (1H, d, J=7.7 Hz), 7.01 (2H, d, J=7.9 Hz), 6.96 (1H, dt, J=15.7, 5.0 Hz), 6.69 (1H, d, J=15.7 Hz), 6.66 (1H, d, J=7.8 Hz), 4.36 (2H, dd, J=5.0, 1.4 Hz), 3.58 (2H, d, J=7.2 Hz), 3.04 (4H, bs), 2.36 (3H, s) and 1.96 (4H, bs); 13C-NMR; δ (CDCl3), 155.8, 154.7, 146.6, 137.9, 136.9, 134.8, 133.8, 129.5, 129.4, 129.3, 129.1, 121.1, 120.8, 62.6, 53.0, 52.8, 29.6, 23.4, 23.4 and 21.2.

reactant | methyl-(E)-3-(6-[3-pyrrolidin-1-yl-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)acrylate | 5.47 mmol, 1.98 g | COC(\C=C\C1=NC(=CC=C1)\C=C\C(N1CCCC1)C1=CC=C(C=C1)C)=O | C23H26N2O2
reactant | DIBAL | 16.4 mmol, 1M, 16.4 ml | CC(C)C[AlH]CC(C)C
reactant | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-(6-[3-pyrrolidino-1-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-prop-2E-en-1-ol | N1(CCCC1)C/C=C(\C1=CC=C(C=C1)C)/C1=CC=CC(=N1)/C=C/CO | C22H26N2O
